US07687493B2
Preparation of N-(3,5-difluorophenyl)methanesulfonamide
The reactor is charged with 14.0 kg of 3,5-difluoroaniline and 56 liters of THF. 9.6 kg of pyridine are added to the stirred solution. The reaction medium is cooled to 0° C. and 13.10 kg of methanesulfonyl chloride are added, while maintaining the temperature between 0-10° C. for 1 hour 30 minutes. At the end of introduction of the methanesulfonyl chloride, the reaction medium is heated at 25° C. for 2 hours. 29 liters of demineralized water and then 6.6 kg of hydrochloric acid (30% w/w) are added to the reaction medium. 60 liters of solvent are distilled off at atmospheric pressure in the presence of an external bath maintained at 100° C., and the reaction medium is then cooled to 20° C. The resulting suspension is filtered and the solid is washed with a total of 20 liters of demineralized water. The solid is dried under vacuum (20 m bar) at 40° C. until a water content <0.5% is obtained. 19.48 kg (87%) of a slightly yellow crystalline solid are thus obtained (m.p.: 121° C.).

reactant | 3,5-difluoroaniline | 14.0 kg | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | THF | 56 liters | C1CCOC1 | C4H8O
reactant | methanesulfonyl chloride | 13.10 kg | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 6.6 kg | Cl | ClH
solvent | water | 29 liters | O | H2O
solvent | pyridine | 9.6 kg | N1=CC=CC=C1 | C5H5N
product | N-(3,5-difluorophenyl)methanesulfonamide | FC=1C=C(C=C(C1)F)NS(=O)(=O)C | C7H7F2NO2S
